US07723378B2
To a solution of 5,5-dimethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (508 mg, 1.98 mmol) in diethyl ether (20 mL), a solution of methyllithium (1.1 mL, 1.6 M in diethyl ether) is added at rt. The mixture is stirred at rt for 1 h before another portion of methyllithium (0.25 mL) is added. Stirring is continued for 2 h. The reaction is quenched by the addition of 1 N aq. K2HPO4 solution. The mixture is diluted with diethyl ether, washed with 1 N aq. NaOH, dried over Na2SO4 and evaporated to give 1-(5,5-dimethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (214 mg) as a yellow oil; LC-MS: tR=1.09 min, [M+1]=255.1.

reactant | 5,5-dimethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 1.98 mmol, 508 mg | CC1(CC=2C(=C(SC2SC)C(=O)O)CC1)C | C12H16O2S2
reactant | methyllithium | 1.6 M, 1.1 mL | C[Li]
reactant | methyllithium | 0.25 mL | C[Li]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-(5,5-dimethyl-3-methylsulfanyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 214 mg | CC1(CC=2C(=C(SC2SC)C(C)=O)CC1)C | C13H18OS2
